US03931151
A suspension of 29.5 g of 2-bromo-5-methyl-10,11-dihydro [5H] dibenzo (b,f) azepine-11-one, 295 ml of ethanol and 29.5 ml of ethyl orthoformate was heated to 70°C and then 1 g of p-toluene sulfonic acid was added thereto in small fractions. The mixture was held at 70°C for 11/2 hours and then 15 ml of triethylamine were added dropwise while still hot and the mixture was then cooled. The product crystallized and the mixture was diluted with 300 ml of distilled water, was stirred at room temperature for 30 minutes and was vacuum filtered. The recovered precipitate was washed with water and dried to obtain 31.8 g of 2-bromo-5-methyl-11-ethoxy [5H] dibenzo (b,f) azepine as pale yellow crystals melting at 131°C.

reactant | 2-bromo-5-methyl-10,11-dihydro [5H] dibenzo (b,f) azepine-11-one | 29.5 g | BrC1=CC2=C(N(C3=C(CC2=O)C=CC=C3)C)C=C1 | C15H12BrNO
reactant | ethanol | 295 ml | C(C)O | C2H6O
reactant | ethyl orthoformate | 29.5 ml | C(OCC)([O-])[O-]
reactant | p-toluene sulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | 2-bromo-5-methyl-11-ethoxy [5H] dibenzo (b,f) azepine | 31.8 g | BrC1=CC2=C(N(C3=C(C=C2OCC)C=CC=C3)C)C=C1 | C17H16BrNO
